US08748462B2
4-(4-(Chloromethyl)-2-(1-vinylcyclopentyl)phenyl)-5-fluoro-2-methoxypyridine (26.7)
To a solution of (4-(5-fluoro-2-methoxypyridin-4-yl)-3-(1-vinylcyclopentyl)phenyl)methanol (47.0 mg, 144 μmol) in DMF (0.01 mL) and DCM (4.0 mL) was slowly added thionyl chloride (14.7 μL, 201 μmol) at 0° C. After addition, the resulting mixture was stirred at room temperature for 1 hour. The solvent was removed, and the product thus obtained was used in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ ppm 8.01-8.11 (1H, m), 7.98 (1H, m), 7.47 (1H, s), 6.94 (1H, d, J=7.8 Hz), 6.69-6.82 (1H, m), 5.80 (1H, dd, J=17.2, 10.6 Hz), 4.89 (1H, d, J=10.2 Hz), 4.52-4.69 (3H, m), 3.89 (3H, s), 1.68-1.84 (4H, m), 1.49-1.67 (4H, m).

reactant | (4-(5-fluoro-2-methoxypyridin-4-yl)-3-(1-vinylcyclopentyl)phenyl)methanol | 144 μmol, 47.0 mg | FC=1C(=CC(=NC1)OC)C1=C(C=C(C=C1)CO)C1(CCCC1)C=C | C20H22FNO2
reactant | thionyl chloride | 201 μmol, 14.7 μL | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 0.01 mL | CN(C)C=O | C3H7NO
solvent | DCM | 4.0 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(Chloromethyl)-2-(1-vinylcyclopentyl)phenyl)-5-fluoro-2-methoxypyridine | ClCC1=CC(=C(C=C1)C1=CC(=NC=C1F)OC)C1(CCCC1)C=C | C20H21ClFNO
